US04883813
Prepration of 2-methylthiomethyl-2,5-dimethoxy-2,5-dihydro furan
A mixture of 2-methylthiomethyl furan (23.3 g, 0.182 mole), anhydrous sodium carbonate (32.16 g, 0.303 mole), methylene chloride (40 mL) and absolute methanol (40 mL) was cooled to -20° C. under nitrogen atmosphere. A solution of bromine (24.32 g, 0.152 mole) in 60 mL absolute methanol was added over a period of one hour. The reaction mixture was stirred for another 4 hours and filtered by suction. The filtrate was stirred with anhydrous potassium carbonate (10 g-1 hour) and filtered. The solvents were removed on the rotary evaporator and methylene chloride (100 mL) was added. The organic solution was dried over anhydrous sodium sulfate, filtered and the solvent was removed on the rotary evaporator. The residue was distilled under reduced pressure to give 16.51 g (57%) of pure product, bp 66°-68° C. (0.4 nm Hg), n23 =1.4860.

reactant | 2-methylthiomethyl furan | 0.182 mole, 23.3 g | CSCC=1OC=CC1 | C6H8OS
reactant | sodium carbonate | 0.303 mole, 32.16 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
reactant | bromine | 0.152 mole, 24.32 g | BrBr | Br2
solvent | methanol | 60 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
product | 2-methylthiomethyl-2,5-dimethoxy-2,5-dihydro furan | 16.51 g, 57% | CSCC1(OC(C=C1)OC)OC | C8H14O3S
